US06319946B1
[(1S,2R)-1-Benzyl-3-(4-cyano-2,2-dimethyl-butylamino)-2-hydroxy-propyl]-carbamic acid [1,3]dioxan-5-yl ester
A solution of (4-Cyano-2,2-dimethyl-butyl)-[(2R,3S)-3-([1,3]dioxan-5-yloxycarbonylamino)-2-hydroxy-4-phenyl-butyl]-carbamic acid benzyl ester (0.420 g, 0.76 mmol) in EtOAc at ambient temperature was treated with palladium on carbon (0.050 g) and stirred under a balloon of hydrogen. After stirring 16 h the mixture was filtered and solvent was removed in vacuo to give desired product as a colorless oil.

reactant | (4-Cyano-2,2-dimethyl-butyl)-[(2R,3S)-3-([1,3]dioxan-5-yloxycarbonylamino)-2-hydroxy-4-phenyl-butyl]-carbamic acid benzyl ester | 0.76 mmol, 0.420 g | C(C1=CC=CC=C1)OC(N(C[C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC1COCOC1)O)CC(CCC#N)(C)C)=O | C30H39N3O7
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 0.050 g | [Pd] | Pd
product | [(1S,2R)-1-Benzyl-3-(4-cyano-2,2-dimethyl-butylamino)-2-hydroxy-propyl]-carbamic acid [1,3]dioxan-5-yl ester | O1COCC(C1)OC(N[C@H]([C@@H](CNCC(CCC#N)(C)C)O)CC1=CC=CC=C1)=O | C22H33N3O5
